US06826033B2
tert-Butyl N-[(1S)-2-hydroxy-1-[4-[[(1-methyl-1H-pyrrol-2-yl)carbonyl]amino]benzyl]ethyl]-N-[(2S)-2-hydroxy-3-phenoxypropyl]carbamate (158 mg) was dissolved in 4N hydrogen chloride in ethanol (2.0 ml) and the solution was stirred at room temperature for 2 hours. The solvent was removed by evaporation and the residual solid was dried under reduced pressure to give N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-1-methyl-1H-pyrrole-2-carboxamide hydrochloride (125 mg) as a pale orange crystalline solid.

reactant | tert-Butyl N-[(1S)-2-hydroxy-1-[4-[[(1-methyl-1H-pyrrol-2-yl)carbonyl]amino]benzyl]ethyl]-N-[(2S)-2-hydroxy-3-phenoxypropyl]carbamate | 158 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)C=1N(C=CC1)C)N(C(OC(C)(C)C)=O)C[C@@H](COC1=CC=CC=C1)O | C29H37N3O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-1-methyl-1H-pyrrole-2-carboxamide hydrochloride | 125 mg | Cl.OC[C@H](CC1=CC=C(C=C1)NC(=O)C=1N(C=CC1)C)NC[C@@H](COC1=CC=CC=C1)O | InChI=1S/C24H29N3O4.ClH/c1-27-13-5-8-23(27)24(30)26-19-11-9-18(10-12-19)14-20(16-28)25-15-21(29)17-31-22-6-3-2-4-7-22;/h2-13,20-21,25,28-29H,14-17H2,1H3,(H,26,30);1H/t20-,21-;/m0./s1
